US07109227B2
A mixture of amidinothiourea (2.0 g, 16.9 mmol), chloroacetone (1.56 g, 16.9 mmol) was heated at reflux in acetone (12 mL) for 4 h. The mixture was cooled to room temperature and removed half of the solvent. The precipitate was filtered, washed with dry acetone, and dried to give N-(4-methyl-1,3-thiazol-2-yl)guanidine (2.19 g, 83%).

reactant | amidinothiourea | 16.9 mmol, 2.0 g | C(N)(=N)NC(=S)N | C2H6N4S
reactant | chloroacetone | 16.9 mmol, 1.56 g | ClCC(C)=O | C3H5ClO
solvent | acetone | 12 mL | CC(=O)C | C3H6O
product | N-(4-methyl-1,3-thiazol-2-yl)guanidine | 2.19 g, 83% | CC=1N=C(SC1)NC(=N)N | C5H8N4S
